US04968668
1-(3-Methylphenyl)-2-methylbutan-3-ol
A solution of 1 mol of 3-(3-methylbenzyl)-butanone (86% pure) in 300 ml of isopropanol was added drop-wise in the course of 5 hours to 100 g of aluminum triisopropylate heated to boiling with 300 ml of isopropanol, while a mixture of acetone and isopropanol distilled off slowly through a 50-cm long packed column. After reacting for 8 hours, the distillate no longer contained any acetone. The residual isopropanol was then distilled off and 300 ml of toluene, 300 g of ice and 300 g of conc. hydrochloric acid were added to the residue. The layers were separated, the aqueous phase was extracted with 300 ml of toluene, and the combined organic phases were extracted by shaking with a little water, concentrated and distilled through a Vigreux column at 0.2 mbar. A mixture of 1-(3-methylphenyl)-2-methylbutan3-ol isomers was obtained in 85% yield from 78°-80° C.

reactant | 3-(3-methylbenzyl)-butanone | 1 mol | CC=1C=C(CC(C(C)=O)C)C=CC1 | C12H16O
reactant | aluminum triisopropylate | CC(C)[O-].CC(C)[O-].CC(C)[O-].[Al+3]
reactant | acetone | CC(=O)C | C3H6O
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | 1-(3-Methylphenyl)-2-methylbutan-3-ol | CC=1C=C(C=CC1)CC(C(C)O)C | C12H18O
